US08981104B2
rac-Ethyl 5-{(5-ethoxy-5-oxopentyl)[2-(2-{[4-(2-phenylethyl)benzyl]oxy}phenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
Under argon, 500 mg (1.07 mmol) of ethyl 5-{(5-ethoxy-5-oxopentyl)[2-(2-hydroxyphenyl)-ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate, 246 mg (1.07 mmol) of 1-(chloromethyl)-4-(2-phenylethyl)benzene and 295 mg (2.13 mmol) of potassium carbonate in 5 ml of DMF were heated to 80° C. and stirred at this temperature for 6 hours. After cooling, water and ethyl acetate were added to the reaction mixture and the phases were then separated. The organic phase was washed twice with water and once with saturated sodium chloride solution and then concentrated to dryness. This gave 760 mg (1.01 mmol, content 88%, 94% of theory) of the target compound.

reactant | ethyl 5-{(5-ethoxy-5-oxopentyl)[2-(2-hydroxyphenyl)-ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | 1.07 mmol, 500 mg | C(C)OC(CCCCN(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)O)=O | C27H36N2O5
reactant | 1-(chloromethyl)-4-(2-phenylethyl)benzene | 1.07 mmol, 246 mg | ClCC1=CC=C(C=C1)CCC1=CC=CC=C1 | C15H15Cl
reactant | potassium carbonate | 2.13 mmol, 295 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | rac-Ethyl 5-{(5-ethoxy-5-oxopentyl)[2-(2-{[4-(2-phenylethyl)benzyl]oxy}phenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)OC(CCCCN(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)OCC1=CC=C(C=C1)CCC1=CC=CC=C1)=O | C42H50N2O5
